US07601868B2
(4-chlorophenyl)[4-(1-pyrrolidinylmethyl)phenyl]methanone
Acetonitrile (55 ml) was added to [4-(bromomethyl)phenyl](4-chlorophenyl)methanone (6.71 g, 21.7 mmol), potassium carbonate (5.99 g, 43.3 mmol) and pyrrolidine (3.62 ml, 43.3 mmol), and the mixture was stirred at 80° C. for 16 hrs. The solvent was concentrated, and diethyl ether was added to the residue. The mixture was extracted with 1N hydrochloric acid. The extract was basified with potassium carbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and the solvent was evaporated under reduced pressure. The obtained residue was purified by alumina column chromatography (developing solvent; ethyl acetate) to give the title compound (4.79 g).

reactant | [4-(bromomethyl)phenyl](4-chlorophenyl)methanone | 21.7 mmol, 6.71 g | BrCC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)Cl | C14H10BrClO
reactant | potassium carbonate | 43.3 mmol, 5.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyrrolidine | 43.3 mmol, 3.62 ml | N1CCCC1 | C4H9N
solvent | Acetonitrile | 55 ml | C(C)#N | C2H3N
product | (4-chlorophenyl)[4-(1-pyrrolidinylmethyl)phenyl]methanone | 4.79 g | ClC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)CN1CCCC1 | C18H18ClNO
